US09127015B2
Preparation of Compound Ethyl 3-[(trifluoroacetyl)amino]-4,5-dihydro-1H-pyrazolo[4,3-g]indolizine-8-carboxylate (I, Wherein n is 0, R1 is —COCF3, R2 and R4 are Hydrogen, and R3 is —O—CH2—CH3)
To the compound ethyl 3-amino-4,5-dihydro-1H-pyrazolo[4,3-g]indolizine-8-carboxylate (5 g, 20.3 mmol) in DCM, was added TEA (11 g, 110 mmol) and TFAA (21 g 100 mmol). The reaction mixture was stirred at room temperature for 3 hours and then concentrated in vacuo. To the residue diluted NH3 and MeOH were added and stirred for 1 hour. The solution was then concentrated. 100 mL of water was added and extracted with ethylacetate (3×100 mL).The organic phase was dried with anhydrous sodium sulphate to obtain a pale yellow solid (6.5 g, 92%).

reactant | ethyl 3-amino-4,5-dihydro-1H-pyrazolo[4,3-g]indolizine-8-carboxylate | 20.3 mmol, 5 g | NC1=NNC2=C1CCN1C=C(C=C21)C(=O)OCC | C12H14N4O2
reactant | TFAA | 100 mmol, 21 g | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | DCM | C(Cl)Cl | CH2Cl2
product | Ethyl 3-[(trifluoroacetyl)amino]-4,5-dihydro-1H-pyrazolo[4,3-g]indolizine-8-carboxylate | 6.5 g, 92% | FC(C(=O)NC1=NNC2=C1CCN1C=C(C=C21)C(=O)OCC)(F)F | C14H13F3N4O3
